US04446141
0.7 g of 1-[3-oxo-3-(3-benzyloxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine is dissolved in 50 ml of methanol, and 1 ml of methanol solution containing 0.1 g of hydrogen chloride is added thereto. Further, 0.2 g of palladium-carbon is added to the solution, and the mixture is shaked in an autoclave at room temperature with a hydrogen pressure of 10 atmospheric pressures to reduce the compound. After 24 hours, the reaction solution is subjected to filtration, and the mother liquor is concentrated under reduced pressure. Ethyl acetate is added to the residue, and filtered. The mixture is dried to obtain 0.55 g of 1-[3-hydroxy-(3-hydroxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)piperidine hydrochloride as powder.

reactant | 1-[3-oxo-3-(3-benzyloxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)-piperidine | 0.7 g | O=C(C(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C28H29N3O3
reactant | hydrogen chloride | 0.1 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
solvent | methanol | 1 ml | CO | CH4O
product | 1-[3-hydroxy-(3-hydroxyphenyl)-2-propyl]-4-(2-keto-1-benzimidazolinyl)piperidine hydrochloride | 0.55 g | Cl.OC(C(C)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=CC=C2)O | InChI=1S/C21H25N3O3.ClH/c1-14(20(26)15-5-4-6-17(25)13-15)23-11-9-16(10-12-23)24-19-8-3-2-7-18(19)22-21(24)27;/h2-8,13-14,16,20,25-26H,9-12H2,1H3,(H,22,27);1H
